US09193693B2
Step 1. Methyl 3-(isopropyl(methyl)amino)-2-(4-methoxyphenyl)quinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (40 mg, 0.14 mmol, 1.00 equiv), 4-methoxyphenylboronic acid (62.6 mg, 0.41 mmol, 3.00 equiv), Pd(PPh3)4 (31.4 mg, 0.03 mmol, 0.20 equiv), K3PO4 (116 mg, 0.55 mmol, 4.00 equiv), 1,4-dioxane (3 mL). The resulting solution was stirred for overnight at 110° C. in an oil bath. The solids were filtered out. The filtrate was concentrated under vacuum. The residue was purified by prep-TLC with ethyl acetate/petroleum ether (1:8). This resulted in 40 mg (80%) of methyl 3-(isopropyl(methyl)amino)-2-(4-methoxyphenyl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.14 mmol, 40 mg, 1.00 equiv | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | 4-methoxyphenylboronic acid | 0.41 mmol, 62.6 mg, 3.00 equiv | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K3PO4 | 0.55 mmol, 116 mg, 4.00 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.03 mmol, 31.4 mg, 0.20 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | Methyl 3-(isopropyl(methyl)amino)-2-(4-methoxyphenyl)quinoxaline-6-carboxylate | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)OC)C | C21H23N3O3
